US06211215B1
In substantially the same manner as in Reference Example 31, isobutyramide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-isopropyl oxazole as an oily product. The yield was 6.2%.

reactant | isobutyramide | C(C(C)C)(=O)N | C4H9NO
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-isopropyl oxazole | yield was 6.2% | ClCC=1N=C(OC1)C(C)C | C7H10ClNO
